US08106190B2
Sodium carbonate and 1,4-dibromobutane were added to an acetonitrile solution of 2-{[(1S*,2S*)-2-aminocyclohexyl]amino}-4-chlorobenzonitrile, followed by heating under reflux for 2 days. By post-treating the reaction liquid, 4-chloro-2-{[(1S*,2S*)-2-pyrrolidin-1-ylcyclohexyl]amino}benzonitrile was obtained.

reactant | Sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
reactant | 2-{[(1S*,2S*)-2-aminocyclohexyl]amino}-4-chlorobenzonitrile | N[C@@H]1[C@H](CCCC1)NC1=C(C#N)C=CC(=C1)Cl | C13H16ClN3
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-chloro-2-{[(1S*,2S*)-2-pyrrolidin-1-ylcyclohexyl]amino}benzonitrile | ClC1=CC(=C(C#N)C=C1)N[C@@H]1[C@H](CCCC1)N1CCCC1 | C17H22ClN3
